US06809090B2
14.1) 4-anilinophenyl 4-(4-nitrophenyl)butanoate
0.98 g (6.02 mmol) of 1,1′-carbonyldiimidazole is slowly added at 20° C. to a solution of 1.25 g (5.96 mmol) of 4-nitrophenylbutyric acid in 25 ml CH2Cl2. The reaction mixture is agitated for 30 minutes before the addition of 1 g (5.42 mmol) of 4-hydroxydiphenylamine. After agitation for 3 hours, the reaction is stopped by the addition of 3 ml of MeOH and the solvent is evaporated under vacuum. The evaporation residue is purified on a silica column (eluent: Heptane/AcOEt: 100/0 to 80/20). A yellow solid is obtained with a yield of 89%.

reactant | 1,1′-carbonyldiimidazole | 6.02 mmol, 0.98 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-nitrophenylbutyric acid | 5.96 mmol, 1.25 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)O)CC | C10H11NO4
reactant | 4-hydroxydiphenylamine | 5.42 mmol, 1 g | C1=CC=C(C=C1)NC2=CC=C(C=C2)O | C12H11NO
reactant | MeOH | 3 ml | CO | CH4O
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | 4-anilinophenyl 4-(4-nitrophenyl)butanoate | yield of 89% | [N+](=O)([O-])C1=CC=C(C=C1)CCCC(=O)OC1=CC=C(C=C1)NC1=CC=CC=C1 | C22H20N2O4
